US09278944B2
To a suspension of 2-(1-bromoethyl)quinazolin-4(3H)-one (2.53 g) in N,N-dimethylformamide (30 mL) was added cyclopropylamine (3.46 mL), and the mixture was diluted with N,N-dimethylformamide (20 mL) and water (1 mL), and then stirred for 18 hours. The reaction solution was concentrated under reduced pressure, and to the residue was added aqueous sodium hydrogen carbonate solution, and then the mixture was extracted with chloroform. The organic layer was dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was triturated with diisopropyl ether/ethyl acetate (20:1) to give 2-[1-(cyclopropylamino)ethyl]quinazolin-4(3H)-one [REx(33-1)] (1.71 g) as a colorless powder.

reactant | 2-(1-bromoethyl)quinazolin-4(3H)-one | 2.53 g | BrC(C)C1=NC2=CC=CC=C2C(N1)=O | C10H9BrN2O
reactant | cyclopropylamine | 3.46 mL | C1(CC1)N | C3H7N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
product | 2-[1-(cyclopropylamino)ethyl]quinazolin-4(3H)-one | 1.71 g | C1(CC1)NC(C)C1=NC2=CC=CC=C2C(N1)=O | C13H15N3O
